US04362736
In a mixture of 30 ml of ethanol and 30 ml of water was dissolved 5.0 g of methyl 3-(2-guanidinothiazol-4-ylmethylthio)propionimidate and after allowing to stand the solution for 20 hours at 40° C., the solvent was distilled off under reduced pressure. The residue formed was purified by a column chromatography using a mixture of chloroform and methanol and recrystallized from methanol to provide 3.2 g 3-(2-guanidinothiazol-4-ylmethylthio)propionamide showing a melting point of 193°-194° C. (decompd.).

reactant | methyl 3-(2-guanidinothiazol-4-ylmethylthio)propionimidate | 5.0 g | N(C(=N)N)C=1SC=C(N1)CSCCC(OC)=N | C9H15N5OS2
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | water | 30 ml | O | H2O
product | 3-(2-guanidinothiazol-4-ylmethylthio)propionamide | 3.2 g | N(C(=N)N)C=1SC=C(N1)CSCCC(=O)N | C8H13N5OS2
